US07276516B2
N-(4-Fluoro-benzyl)-4-[3-(2-fluoro-pyridin-3-yl)-indole-1-sulfonyl]-benzamide
Combine N-(4-Fluoro-benzyl)-4-(3-iodo-indole-1-sulfonyl)-benzamide (300 mg, 0.56 mmol), 2-Fluoro-3-boronic acid-pyridine (140 mg, 1.12 mmol), CsF (170 mg, 1.12 mmol) and Dichlorobis(triphenylphosphine)palladium (100 mg, 0.14 mmol) in dioxane (2.0 mL) and water (0.200 mL). Evacuate the reaction and place under a nitrogen atmosphere. Heat the resulting reaction in an 80 degree oil bath for 15 h. Cool the reaction and filter through a short pad of silica gel with additional ethyl acetate. Evaporate and purify by flash column chromatography (EtOAc/Hexanes) to yield 141 mg of an off white foam (50%) LRMS: MH+ 503.92.

reactant | N-(4-Fluoro-benzyl)-4-(3-iodo-indole-1-sulfonyl)-benzamide | 0.56 mmol, 300 mg | FC1=CC=C(CNC(C2=CC=C(C=C2)S(=O)(=O)N2C=C(C3=CC=CC=C23)I)=O)C=C1 | C22H16FIN2O3S
reactant | CsF | 1.12 mmol, 170 mg | [F-].[Cs+]
reactant | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.200 mL | O | H2O
catalyst | Dichlorobis(triphenylphosphine)palladium | 0.14 mmol, 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-Fluoro-benzyl)-4-[3-(2-fluoro-pyridin-3-yl)-indole-1-sulfonyl]-benzamide | 50% | FC1=CC=C(CNC(C2=CC=C(C=C2)S(=O)(=O)N2C=C(C3=CC=CC=C23)C=2C(=NC=CC2)F)=O)C=C1 | C27H19F2N3O3S
